US07893258B2
To a 250 mL flask containing potassium tert-butoxide (13.27 g, 108.7 mmol, 4.6 eq.) under nitrogen atmosphere was added anhydrous tetrahydrofuran (100 mL) and via cannula 1-bromo-6-propylnonane (5.87 g, 23.54 mmol) in solution with anhydrous tetrahydrofuran (20 mL) was transferred at 0° C. The mixture was then stirred at room temperature for 2 h. Hydrochloric acid (230 mL, 1M) was added slowly and the mixture was extracted with cyclohexane (300 mL+3×100 mL). The combined organic phase was washed with aqueous sodium bicarbonate (100 mL, 1M) and dried over magnesium sulfate. The solvent was carefully evaporated under moderate vacuum (at room temperature because of the high volatility of the alkene) to give 3.3 g (84%) of 6-propylnon-1-ene as a brown liquid. 1H NMR (CDCl3, 400 MHz) d?(ppm): 5.82 (ddt, J=6.8 Hz, J=10.2 Hz, J=16.9 Hz, H); 5.00 (broad d, J=16.9 Hz, H); 4.93 (broad d, J=10.2 Hz, H); 2.02 (dt, J=6.8 Hz, J=6.8 Hz, 2H); 1.41-1.30 (m, 2H); 1.32-1.15 (m, 11H); 0.88 (t, J=7.1 Hz, 6H′). 13C NMR (CDCl3, 129.9 MHz) d?(ppm): 139.3; 114.1; 36.8; 36.1 (2C); 34.3; 33.2; 26.0; 19.8 (2C); 14.5 (2C). MS (IE) m/z (%) 169.1 [M+] (25); 141.1 (30); 125.0 (57); 113.0 (40); 99.0 (44); 85.0 (67); 71.0 (73).

reactant | potassium tert-butoxide | 108.7 mmol, 13.27 g, 4.6 eq. | CC(C)([O-])C.[K+]
reactant | 1-bromo-6-propylnonane | 23.54 mmol, 5.87 g | BrCCCCCC(CCC)CCC | C12H25Br
reactant | Hydrochloric acid | 1M, 230 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 6-propylnon-1-ene | 3.3 g, 84% | C(CC)C(CCCC=C)CCC | C12H24
